US07601744B2
To a solution of N-isopropyl-1,2-phenylenediamine (7.52 g, 50.0 mmol) in pyridine (200 mL) was added sulfamide (7.21 g, 75 mmol, 1.5 equiv.) and the mixture was refluxed for 1 hour. After cooling, pyridine was removed under reduced pressure. Residual pyridine was removed by azeotrope evaporation using toluene. The black residue was dissolved in chloroform (150 mL) and the solution was washed with an aqueous hydrochloric acid solution (2 N, 2×50 mL), water, brine, dried (anhydrous sodium sulfate), and concentrated to give a crude black oil, which was purified by Isco CombiFlash Companion column chromatography (silica gel, 0-40% ethyl acetate/hexane, with 1% formic acid additive) to give 8.61 g (81%) of 1-isopropyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide as a viscous brown liquid.

reactant | N-isopropyl-1,2-phenylenediamine | 50.0 mmol, 7.52 g | C(C)(C)NC1=C(C=CC=C1)N | C9H14N2
reactant | sulfamide | 75 mmol, 7.21 g, 1.5 equiv. | S(=O)(=O)(N)N | H4N2O2S
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | 1-isopropyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 8.61 g, 81% | C(C)(C)N1S(NC2=C1C=CC=C2)(=O)=O | C9H12N2O2S
